data/oMe_Silver.jsonl
{"reaction_id": "NR-138_1-c1ccccc1_2-N(=O)=O_3-c1cnccc1_4-c1ccc(N(C)C)cc1_5-C1C2CC3CC1CC(C2)C3_6-CC(C)C","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)c1ccccc1)(N(=O)=O)(c1cnccc1)","C(=O)(c1ccc(N(C)C)cc1)(C1C2CC3CC1CC(C2)C3)","NCC(C)C"],"products_smiles": ["C(C(=O)c1ccccc1)(N(=O)=O)(c1cnccc1)C(c1ccc(N(C)C)cc1)(C1C2CC3CC1CC(C2)C3)NCC(C)C"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])c1ccccc1)(N(=O)=O)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1cnccc1)(N(=O)=O)=C(O)c1ccccc1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])c1ccccc1)(N(=O)=O)(c1cnccc1)C(c1ccc(N(C)C)cc1)(C1C2CC3CC1CC(C2)C3)NCC(C)C","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)c1ccccc1)(N(=O)=O)(c1cnccc1)C(c1ccc(N(C)C)cc1)(C1C2CC3CC1CC(C2)C3)NCC(C)C","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
{"reaction_id": "NR-103_1-Cl_2-C(F)(F)F_3-S(=O)(=O)C_4-C(C)CC_5-N1CCCCC1","level": "medium","name": "Hass-Bender Oxidation","reactants_smiles": ["BrCc1c(Cl)c(C(F)(F)F)c(S(=O)(=O)C)c(C(C)CC)c1N1CCCCC1","CC(C)[N+](=O)[O-]","[Na+].[O-]CC"],"products_smiles": ["O=Cc1c(Cl)c(C(F)(F)F)c(S(=O)(=O)C)c(C(C)CC)c1N1CCCCC1"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The α-proton of the nitroalkane is acidic due to resonance stabilization of the resulting nitronate anion by the electron-withdrawing nitro group, allowing base-induced deprotonation."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+]([O-])(=C(C)C)OCc1c(Cl)c(C(F)(F)F)c(S(=O)(=O)C)c(C(C)CC)c1N1CCCCC1","step_weight": 0,"rationale": "The nitronate anion acts as a strong nucleophile, attacking the benzylic carbon where the bromide is a good leaving group, aided by benzylic resonance stabilization of the transition state."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=Cc1c(Cl)c(C(F)(F)F)c(S(=O)(=O)C)c(C(C)CC)c1N1CCCCC1","step_weight": 0,"rationale": "Elimination of the nitro group occurs because the benzylic position can stabilize the developing carbonyl through conjugation with the aromatic ring, making aldehyde formation thermodynamically favorable."}],"description": "In the Hass-Bender oxidation, the nitroalkane is deprotonated to form a nitronate anion, which then displaces the benzylic bromide via nucleophilic substitution. Subsequent elimination of the nitro group yields the aldehyde, driven by resonance stabilization of the aromatic carbonyl product."}
